US05011947
3,3-bis(4-fluorophenyl)-2-methylpropenol
Diisobutylaluminum hydride (80 mL of 1M solution, 80 mmol) was added to a solution of ethyl 3,3-bis(4-fluorophenyl)-2-methylpropenoate (8.0 g, 26.5 mmol).in 75 mL dichloromethane at -70° C. After stirring for 4 hours the solution was quenched with 1N hydrochloride acid. The organic layer was separated, dried with magnesium sulfate and concentrated in vacuo to give 5.5 g of the title compound as a clear oil. MS(EI): m/e =260 for M+ of C16H14F2O.

reactant | Diisobutylaluminum hydride | 80 mmol, 1M, 80 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 3,3-bis(4-fluorophenyl)-2-methylpropenoate | 26.5 mmol, 8.0 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C)C1=CC=C(C=C1)F | C18H16F2O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3,3-bis(4-fluorophenyl)-2-methylpropenol | 5.5 g | FC1=CC=C(C=C1)C(C(=CO)C)C1=CC=C(C=C1)F | C16H14F2O
